US07060827B2
In a manner analogous to the preparation of N2,N4-bis(3-carboxyphenyl)-5-fluoro-2,4-pyrimidinediamine, N2,N4-bis[4-methoxy-3-(methoxycarbonyl)phenyl]-5-fluoro-2,4-pyrimidinediamine (80 mg, 0.18 mmol) and NaOH (200 mg, 5 mmol) gave N2,N4-bis(3-carboxy-4-methoxyphenyl)-5-fluoro-2,4-pyrimidinediamine (80 mg). 1H NMR (DMSO-d6): δ 3.75 (s, 3H), 3.80 (s, 3H), 6.94 (d, J=9.6 Hz, 1H), 7.05 (d, J=9.3 Hz, 1H), 7.78–7.80 (m, 3H), 7.94 (dd, J=9.3 Hz, 1H), 8.04 (d, J=3.6 Hz, 1H), 9.10 (s, 1H, NH), 9.30 (s, 1H, NH); 19F NMR (282 MHz, DMSO-d6): δ −165.56; LCMS: ret. time: 14.65 min.; purity: 100%; MS (m/e): 428.83 (MH+).

reactant | N2,N4-bis(3-carboxyphenyl)-5-fluoro-2,4-pyrimidinediamine | C(=O)(O)C=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C(=O)O)F | C18H13FN4O4
reactant | N2,N4-bis[4-methoxy-3-(methoxycarbonyl)phenyl]-5-fluoro-2,4-pyrimidinediamine | 0.18 mmol, 80 mg | COC1=C(C=C(C=C1)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)OC)C(=O)OC)F)C(=O)OC | C22H21FN4O6
reactant | NaOH | 5 mmol, 200 mg | [OH-].[Na+]
product | N2,N4-bis(3-carboxy-4-methoxyphenyl)-5-fluoro-2,4-pyrimidinediamine | 80 mg | C(=O)(O)C=1C=C(C=CC1OC)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)OC)C(=O)O)F | C20H17FN4O6
